Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
History of healed dorsalis pedis ulceration in the setting of hy 
status post bypass from the left distal SFA to the dorsalis 
pedis.
 
Major Surgical or Invasive Procedure:
Diagnostic angiogram

 
History of Present Illness:
This is an ___ elderly gentleman status post bypass
from the left distal SFA to the dorsalis pedis for ulceration
who subsequently healed his foot. The vein graft was ___ years
old. On routine surveillance, he has had duplex.  He was
noted to have a severe mid-graft stenosis and presents now
for arteriography and possible intervention.

 
Past Medical History:
PVD
DM
HTN
hypercholesterolemia 
hearing loss
CAD

 
Social History:
___
Family History:
n/c
 
Physical Exam:
VS 98.0 77 172/71 16 96% RA
Gen: AAOx3, hard of hearing.
HENT: WNL
Lungs: CTA B/L
Heart: RRR
Abd: protruberant, positive bowel sounds, soft, non-tender
Ext: warm b/l, no ulcerations
Pulses:
R fem palp, pop palp
L fem palp, pt none, dp palp, graft palp

 
Pertinent Results:
___ 05:35AM BLOOD WBC-8.5 RBC-3.89* Hgb-12.0* Hct-36.6* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-12.9 Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-25.9 ___
___ 05:35AM BLOOD Glucose-123* UreaN-18 Creat-0.9 Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-15
___ 05:35AM BLOOD Calcium-9.5 Phos-3.9 Mg-1.6

ECG Study Date of ___  8:45:26 AM 

Sinus rhythm. Prior inferior myocardial infarction. Probable 
prior 
anterior myocardial infarction as well. Compared to the previous 
tracing  
of ___ no diagnostic interim change. 
 

 
Brief Hospital Course:
This is an ___ elderly gentleman status post bypass from the left 
distal SFA to the dorsalis pedis for ulceration who subsequently 
healed his foot. The vein graft was ___ years old. On routine 
surveillance, he has had duplex.  He was
noted to have a severe mid-graft stenosis. He comes in for a 
planned for arteriography and possible intervention. 

___ Direct admit via holding room to Vascular Surgery/Dr. 
___. Taken to angio suite and tolerated 
diagnostic angiogram. Patient recovered and transferred to ___ 
5. Patient had hypertensive episode post angio, he was given 
Hydralazine IV prn.

___ Patient is stable. Discharged to home in good condition. 
He will call Dr. ___ office to make his date for 
revascularization procedure.
 
Medications on Admission:
atorvastatin 80 mg qd
Glucophage 1000 mg BID
lisinopril 10 mg qd
lopressor 12.5 mg bid
asa 81 mg

 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Glucophage 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PVD
DM
HTN
hypercholesterolemia 
hearing loss
CAD

 
Discharge Condition:
Good

 
Discharge Instructions:
- You had a diagnostic Angiogram

- You may gradually resume normal activities as tolerated.

- Check your access groin for bruising, call the office if 
bruising 
  develops.

- Take all your medications as precribed.

- Eat your normal diet.

- You may feel tired for a few days, this is normal.

- Call Dr. ___ for your next appointment.

 
Followup Instructions:
___